US03971819
A. 3-nitro-5-sulphamyl-4-(o-tolylthio)-benzoic acid
A mixture of 4-chloro-3-nitro-5-sulphamyl-benzoic acid (28 g), o-thiocresol (12.4 g), and 1N sodium bicarbonate (300 ml) was refluxed for 3 hours. After cooling, the precipitated sodium salt of 3-nitro-5-sulphamyl-4-o-tolylthio-benzoic acid was filtered off and washed with 1N sodium bicarbonate solution. The sodium salt was dissolved in hot water (250 ml), and the acid was precipitated by the addition of 4N hydrochloric acid (17 ml). After isolation, recrystallization from aqueous ethanol, and drying at 115°C and 10 mm Hg for 3 hours, the acid was obtained with a melting point of 165°-166°C.

reactant | 4-chloro-3-nitro-5-sulphamyl-benzoic acid | 28 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C7H5ClN2O6S
reactant | o-thiocresol | 12.4 g | CC1=CC=CC=C1S | C7H8S
solvent | sodium bicarbonate | 1N, 300 ml | C([O-])(O)=O.[Na+]
product | 3-nitro-5-sulphamyl-4-(o-tolylthio)-benzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1SC1=C(C=CC=C1)C)S(N)(=O)=O | C14H12N2O6S2
